US07713964B2
4-{2-[1-benzhydryl-5-chloro-2-(2-{[(4-chloro-2-nitrobenzyl)sulfonyl]amino}ethyl)-1H-indol-3-yl]ethoxy}benzoic acid
To the methyl 4-{2-[2-(2-aminoethyl)-1-benzhydryl-5-chloro-1H-indol-3-yl]ethoxy}benzoate (Step 6, Example 1)was added (4-chloro-2-nitro-phenyl)-methanesulfonyl chloride according to the procedure in Example 1 Step 7 to generate the product in 74% yield.

reactant | methyl 4-{2-[2-(2-aminoethyl)-1-benzhydryl-5-chloro-1H-indol-3-yl]ethoxy}benzoate | NCCC=1N(C2=CC=C(C=C2C1CCOC1=CC=C(C(=O)OC)C=C1)Cl)C(C1=CC=CC=C1)C1=CC=CC=C1 | C33H31ClN2O3
reactant | (4-chloro-2-nitro-phenyl)-methanesulfonyl chloride | ClC1=CC(=C(C=C1)CS(=O)(=O)Cl)[N+](=O)[O-] | C7H5Cl2NO4S
product | 4-{2-[1-benzhydryl-5-chloro-2-(2-{[(4-chloro-2-nitrobenzyl)sulfonyl]amino}ethyl)-1H-indol-3-yl]ethoxy}benzoic acid | 74% yield | C(C1=CC=CC=C1)(C1=CC=CC=C1)N1C(=C(C2=CC(=CC=C12)Cl)CCOC1=CC=C(C(=O)O)C=C1)CCNS(=O)(=O)CC1=C(C=C(C=C1)Cl)[N+](=O)[O-] | C39H33Cl2N3O7S
